US06870057B1
The method of synthesis presented in Ger.Pat. 2,461,406 uses 4-phenylbenzophenone as partition reactant, and has 2 or three steps, depending on the variation of synthesis to use. One of the variations comprises the dissolution of 4-phenylbenzophenone in ethanol, then adding sodium borohydride in a 1:2 molar relation to 4-phenyl benzophenone, for the reduction of ketone to alcohol. The system is heated to reflux during fifteen hours, it is let to cool down and the reaction mixture is hydrolyzed with water acidulated with HCl, the solid obtained is purified by recrystallization in ethanol. 89% of the theoretical yield of biphenyl-phenyl-carbinol is obtained.

reactant | 4-phenylbenzophenone | C1(=CC=CC=C1)C1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C19H14O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | O | H2O
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | biphenyl phenyl-carbinol | C1(=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)CO | InChI=1S/C12H10.C7H8O/c1-3-7-11(8-4-1)12-9-5-2-6-10-12;8-6-7-4-2-1-3-5-7/h1-10H;1-5,8H,6H2
